US03988358
A mixture of 17.2 mmoles of bromobenzene, 21.2 mmoles n-butanol, 19 mmols tri-n-butylamine and 0.25 mmole of bromo(bistriphenylphosphine)phenylpalladium was reacted at 100° under one atmosphere of carbon monoxide until gas absorption stopped (about 24 hours). Isolation of the product as in Example 1 gave n-butyl benzoate in 78% yield.

reactant | bromobenzene | 17.2 mmoles | BrC1=CC=CC=C1 | C6H5Br
reactant | n-butanol | 21.2 mmoles | C(CCC)O | C4H10O
reactant | tri-n-butylamine | 19 mmols | C(CCC)N(CCCC)CCCC | C12H27N
reactant | carbon monoxide | [C]=O | CO
product | n-butyl benzoate | 78% yield | C(C1=CC=CC=C1)(=O)OCCCC | C11H14O2
